US07592477B2
Step a) Formation of 3-bromo-1-benzofuran-5-carbaldehyde
To a solution of 2,3-dibromo-2,3-dihydro-1-benzofuran-5-carbaldehyde (10 g) in dry ethanol (25 mL) was added a solution of KOH in dry ethanol (14 mL) and refluxed at 70° C. for 2 h. The reaction mixture was cooled, diluted with water and extracted with EtOAc (3×50 mL). The organic layer was washed with water, brine and dried. The solvent was removed under vacuum and the residue was purified by flash chromatography (PetEther/EtOAc 99.5/0.5) to give the title compound as a pale yellow solid (3.3 g, 45%). 1H NMR (DMSO-d6, 300 MHz) δ 10.12 (s, 1H), 8.47 (s, 1H), 8.14 (d, 1H, J=1.5 Hz), 7.97 (dd, 1H, J=8.6, 1.5 Hz), 7.87 (d, 1H, J=8.6 Hz).

reactant | 2,3-dibromo-2,3-dihydro-1-benzofuran-5-carbaldehyde | 10 g | BrC1OC2=C(C1Br)C=C(C=C2)C=O | C9H6Br2O2
reactant | KOH | [OH-].[K+]
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | ethanol | 14 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 3-bromo-1-benzofuran-5-carbaldehyde | 3.3 g, 45% | BrC1=COC2=C1C=C(C=C2)C=O | C9H5BrO2
